US07507688B2
27 g (0.179 mol) of (1-phenyl-1H-imidazol-2-yl)methanol were added to 25 ml of SOCl2 under stirring at 0° C. The solution obtained was refluxed for 30 min and then the excess SOCl2 removed under vacuum. The thus obtained residue was recrystallized from 50 ml of a mixture of toluene:EtOH=5:1 to give 16.6 g (74%) of 2-(chloromethyl)-1-phenyl-1H-imidazole hydrochloride.

reactant | (1-phenyl-1H-imidazol-2-yl)methanol | 0.179 mol, 27 g | C1(=CC=CC=C1)N1C(=NC=C1)CO | C10H10N2O
reactant | SOCl2 | 25 ml | O=S(Cl)Cl | Cl2OS
product | 2-(chloromethyl)-1-phenyl-1H-imidazole hydrochloride | 16.6 g, 74% | Cl.ClCC=1N(C=CN1)C1=CC=CC=C1 | InChI=1S/C10H9ClN2.ClH/c11-8-10-12-6-7-13(10)9-4-2-1-3-5-9;/h1-7H,8H2;1H
